data/mechanism_extracts/Angew/10.1002_anie.202117188.json
{"doi": "10.1002_anie.202117188", "journal": "Angew", "is_review": false, "rxn_class_summary": "Rhodium(III)-catalyzed electrooxidative C8–H alkenylation of 1-naphthols (and hydroxyquinolines) with styrenes under anodic conditions", "mechanism_family": ["electrocatalysis_inner_sphere"], "electrochemical_role": "Anode reoxidizes the reduced Rh(II) species (and Rh(III)→Rh(IV) en route to reductive elimination), generating H2 at the cathode; electricity acts beyond a simple sacrificial oxidant, with current-dependent rate indicating turnover-limiting electron transfer", "key_intermediates": [{"name": "Cp*Rh(OPiv)2 / L-Rh(OPiv) active catalyst (species A precursor)", "smiles": null, "role": "reactive"}, {"name": "Five-membered peri-cyclorhodated naphtholate rhodacycle A (Cp*Rh(III) bound via O and C8)", "smiles": null, "role": "reactive"}, {"name": "Styrene π-coordinated Rh(III) complex B", "smiles": null, "role": "transient"}, {"name": "Seven-membered alkyl–Rh(IV) rhodacycle C (after migratory insertion and anodic oxidation)", "smiles": null, "role": "reactive"}, {"name": "Cp*Rh(II) species D (post β-H elimination, prior to anodic reoxidation)", "smiles": null, "role": "transient"}], "electron_flow": "Rh(III) carboxylate performs concerted metalation–deprotonation at C8 of deprotonated 1-naphthol to form a rhodacycle; after styrene coordination and migratory insertion, anodic oxidation lifts Rh(III) to Rh(IV), enabling facile reductive elimination/β-H elimination to release the alkenylated product and Rh(II), which is reoxidized at the anode while protons are reduced to H2 at the cathode.", "rate_determining_step": "Turnover-limiting single-electron transfer (anodic oxidation of the Rh intermediate), supported by strong current dependence and negligible KIE", "probe_reagents": [{"name": "D2O co-solvent (H/D exchange on 1-naphthol 1a)", "smiles": "[2H]O[2H]", "purpose": "H/D_labeling", "observation": "Reversible C8 and C2 H/D scrambling with Rh catalyst (no alkene); only C2 scrambling without Rh; with alkene 2a, irreversible C–C bond formation and selective C8 functionalization"}, {"name": "Deuterated 1-naphthol (KIE study with 2e)", "smiles": null, "purpose": "KIE", "observation": "kH/kD ≈ 1.1, indicating C–H metalation is fast and not rate-limiting"}, {"name": "Competition alkenes 2a (Me) vs 2m (CF3)", "smiles": null, "purpose": "other", "observation": "3aa:3am = 1.00:2.33, electron-poor alkene preferred"}, {"name": "Variable current (CCE = 2, 4, 6 mA)", "smiles": null, "purpose": "redox_probe", "observation": "Reaction rate scales strongly with current (ρ = 0.074, 0.102, 0.183), consistent with turnover-limiting ET"}, {"name": "Stoichiometric Rh(III) (50 mol%) with 1a + 2l, no current", "smiles": null, "purpose": "stoichiometric_intermediate", "observation": "Product 3al obtained in only 40% yield, showing electricity has a role beyond sacrificial oxidation"}], "evidence_types_used": ["KIE", "H/D_labeling", "kinetic_order", "stoichiometric_intermediate", "DFT"], "evidence_strength": "strong", "notes": "DFT (PW6B95-D4/def2-TZVP+SMD(i-PrOH)//PBE0-D3BJ/def2-SVP) compared Rh(III)/Rh(I) vs Rh(IV)/Rh(II) reductive elimination manifolds; the Rh(IV/II) pathway is preferred by 2.1 kcal/mol and gives a more stable Rh(II) intermediate (17.7 kcal/mol). The alternative Rh(III)/Rh(I) RE pathway is disfavored. Substrate 1d gave oxa-Michael and oxidative C–H/O–H cyclization products (pyranoquinolines 6) instead of alkenylation, indicating a competing cyclization pathway with hydroxyquinolines."}
